US08304557B2
tert-butyl {5-[(6-aminopyridin-3-yl)oxy]-2-chlorophenyl}carbamate
To a solution of tert-butyl {2-chloro-5-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate (13.5 g, 36.9 mmol) in methanol (500 mL) was added palladium carbon (50% water-containing product, 2.96 g), and the mixture was stirred under a hydrogen atmosphere at room temperature for 17 hr. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (silica gel, hexane/ethyl acetate=100/0→75/25) to give the title compound (7.29 g, 59%) as a pale-yellow oil.

reactant | tert-butyl {2-chloro-5-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate | 36.9 mmol, 13.5 g | ClC1=C(C=C(C=C1)OC=1C=NC(=CC1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C16H16ClN3O5
solvent | methanol | 500 mL | CO | CH4O
catalyst | palladium carbon | 2.96 g | [C].[Pd]
product | tert-butyl {5-[(6-aminopyridin-3-yl)oxy]-2-chlorophenyl}carbamate | 7.29 g, 59% | NC1=CC=C(C=N1)OC=1C=CC(=C(C1)NC(OC(C)(C)C)=O)Cl | C16H18ClN3O3
